datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"CC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]CC>>CC1C(O[C:20](N1[H])([O-:10])[O:21]CC)CC 21=20;20,10=10"
"[NH:10](C)C([H])/C(C)=C([C:20](C)=[O:21])/[H]>>[O-:21][C:20]1(C)[NH+:10](C)C([H])C(C)=C1[H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)CC>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)C)CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C)([O]C)[NH]C.[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([O]C)[NH]C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C)CCCCCC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C([H])C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)C([H])C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S:10]C([H])C(C)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])[H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"C[NH:10][H].C[NH+:21]=[C:20]([NH][H])[O][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[O][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)[H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)C1=CC=CC=C1)CC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[S]1 10=20;20,21=21"
